US05166170
2,2-Dimethyl-N-[2-(1-acetyl-2,3-dihydro-1H-indol-2-yl)phenyl]propanamide
To an ice cold solution of 3.5 g 2,2-dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide in 35 ml CH2Cl2 was added 8.4 ml triethylamine, followed by dropwise addition of 4.2 ml acetic anhydride. The resulting solution was stirred at room temperature for two hours and then quenched with water. The organic layer was washed successively with 5% aq. HCl, water, saturated NaHCO3 and brine, and dried (MgSO4). Concentration, trituration with hexane and recrystallization from toluene/hexane gave 3.1 g solid, m.p. 184°-186° C.

reactant | 2,2-dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide | 3.5 g | CC(C(=O)NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1)(C)C | C19H22N2O
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-N-[2-(1-acetyl-2,3-dihydro-1H-indol-2-yl)phenyl]propanamide | 3.1 g | CC(C(=O)NC1=C(C=CC=C1)C1N(C2=CC=CC=C2C1)C(C)=O)(C)C | C21H24N2O2
